US07465726B2
1-[4-(4-Chloro-7H-pyrrolo[2,3-d]pyrimidin-6-yl)-3,6-dihydro-2H-pyridin-1-yl]-3-piperidin-1-ylpropan-1-one
To a suspension/solution of 4-chloro-6-(1,2,3,6-tetrahydropyridin-4-yl)-7H-pyrrolo[2,3-d]pyrimidine bis-hydrochloride (19.1 mg, 0.0621 mmol, 1 eq), 1-piperidinepropanoic acid (24.5 mg, 0.156 mmol, 2.5 eq), 1-hydroxybenzotriazole (HOBt) (8.5 mg, 0.063 mmol, 1 eq), and N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (EDC) (36.3 mg, 0.189 mmol, 3 eq) in anhydrous DMF (1.3 mL), DiPEA (64 μL, 0.37 mmol, 6 eq) was added and the reaction was stirred at rt, under N2, for 16 h. Solvent was concentrated in vacuo and the residue was dissolved in DCM, washed with NaHCO3 (2×) and brine (1×), dried over anhydrous Na2SO4, filtered, and concentrated under reduced pressure. The crude material was purified on MDPS giving the title compound as a yellow solid. 1H NMR (400 MHz, MeOH-d4): δ=1.45-1.56 (s, br, 2H), 1.64 (sextet, J=5.6 Hz, 4H), 2.46-2.78 (m, 10H), 3.81 & 3.84 (t, J=5.6 Hz, rotamers, 2H), 4.29 & 4.33 (d, J=2.0 Hz, rotamers, 2H), 6.48 (s, br, 1H), 6.62 & 6.63 (s, rotamers, 1H), 8.50 (d, 1H). MS (ES+): m/z 373.99/376.00 (100/36) [MH+]. HPLC: tR=1.86 min (ZQ2000, polar—5 min).

reactant | 4-chloro-6-(1,2,3,6-tetrahydropyridin-4-yl)-7H-pyrrolo[2,3-d]pyrimidine bis-hydrochloride | 0.0621 mmol, 19.1 mg, 1 eq | Cl.Cl.ClC=1C2=C(N=CN1)NC(=C2)C=2CCNCC2
reactant | 1-piperidinepropanoic acid | 0.156 mmol, 24.5 mg, 2.5 eq | N1(CCCCC1)CCC(=O)O | C8H15NO2
reactant | 1-hydroxybenzotriazole | 0.063 mmol, 8.5 mg, 1 eq | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.189 mmol, 36.3 mg, 3 eq | Cl.CN(CCCN=C=NCC)C
reactant | DiPEA | 0.37 mmol, 64 μL, 6 eq | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1.3 mL | CN(C)C=O | C3H7NO
product | 1-[4-(4-Chloro-7H-pyrrolo[2,3-d]pyrimidin-6-yl)-3,6-dihydro-2H-pyridin-1-yl]-3-piperidin-1-ylpropan-1-one | ClC=1C2=C(N=CN1)NC(=C2)C=2CCN(CC2)C(CCN2CCCCC2)=O | C19H24ClN5O
